US04418079
To a solution of N-(4-phenyl-4-hydroxy-2-trans-butenyl)-N,N-diethylamine (44.04 g) in chloroform (1000 ml), manganese dioxide (350 g) was added portionwise with stirring at 15° to 20° C. for 10 minutes, and stirring was continued for 3 hours under ice-cooling. After filtration of inorganic materials, the filtrate was evaporated to afford N-(4-phenyl-4-oxo-2-trans-butenyl)-N,N-diethylamine, which formed its hydrobromide with a solution of hydrogen bromide (16.3 g) in anhydrous ether (200 ml), m.p., 92°-94° C.

reactant | N-(4-phenyl-4-hydroxy-2-trans-butenyl)-N,N-diethylamine | 44.04 g | C1(=CC=CC=C1)C(C/C=C/N(CC)CC)O | C14H21NO
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 350 g | [O-2].[O-2].[Mn+4]
product | N-(4-phenyl-4-oxo-2-trans-butenyl)-N,N-diethylamine | C1(=CC=CC=C1)C(C/C=C/N(CC)CC)=O | C14H19NO
